US07109229B2
(b) 3-(5-Fluoro-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)acetamide (350 mg, 1.86 mmol) and methyl 2-(5-fluoro-1H-indol-3-yl)oxoacetate (427 mg, 1.93 mmol) in DMF (25 mL) was added a 1.0 M solution of potassium tert-butoxide in THF (6.5 mL, 6.5 mmol) at room temperature under N2. The reaction was heated to 65° C. and stirred for 20 h at this temperature. The reaction mixture was then cooled to room temperature and quenched with 1.0 N hydrochloric acid, extracted with EtOAc (50 mL), washed with H2O (2×30 mL), saturated NaCl (2×30 mL), dried (MgSO4), filtered and concentrated. Flash chromatography (SiO2, 30% EtOAc/hexanes) gave the title compound (282 mg, 42%) as a maroon solid, mp 230° C. dec. 1H NMR (DMSO-d6) δ 11.95 (bs, 1H), 11.18 (bs, 1H), 7.98 (s, 1H), 7.64 (m, 1H), 7.34 (m, 1H), 7.28 (m, 1H), 6.99 (m, 1H), 6.92 (m, 1H), 6.83 (m, 1H), 6.48 (m, 1H), 5.91 (m, 1H), 3.67 (s, 3H). MS (APCI): m/z=360 [C21H14FN3O2+H]+

reactant | 2-(1-methyl-1H-indol-7-yl)acetamide | 1.86 mmol, 350 mg | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | methyl 2-(5-fluoro-1H-indol-3-yl)oxoacetate | 1.93 mmol, 427 mg | FC=1C=C2C(=CNC2=CC1)C(C(=O)OC)=O | C11H8FNO3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 6.5 mmol, 6.5 mL | C1CCOC1 | C4H8O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3-(5-Fluoro-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione | 282 mg, 42% | FC=1C=C2C(=CNC2=CC1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C21H14FN3O2
